US08791129B2
[2-Amino-6-[2-(hydroxymethyl)-4,5-dimethoxyphenyl]quinazolin-4-yl]isoindolin-2-ylmethanone (“A7”)
48 mg of (2-bromo-4,5-dimethoxyphenyl)methanol, 80 mg of potassium carbonate, 7 μl of water and 8 mg of [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloride are added to a solution of 100 mg of [2-amino-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone in 10 ml of ethanol under argon. The mixture is heated at 120° C. for 30 min. The solid is filtered off through kieselguhr with suction, and the filtrate is evaporated to dryness in vacuo. The residue is dissolved in 1 ml of DMSO and chromatographed by means of prep. HPLC (Agilent). The product fractions obtained are subsequently evaporated and freeze-dried.

reactant | (2-bromo-4,5-dimethoxyphenyl)methanol | 48 mg | BrC1=C(C=C(C(=C1)OC)OC)CO | C9H11BrO3
reactant | potassium carbonate | 80 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 7 μl | O | H2O
reactant | [2-amino-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone | 100 mg | NC1=NC2=CC=C(C=C2C(=N1)C(=O)N1CC2=CC=CC=C2C1)B1OC(C(O1)(C)C)(C)C | C23H25BN4O3
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloride | 8 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | [2-Amino-6-[2-(hydroxymethyl)-4,5-dimethoxyphenyl]quinazolin-4-yl]isoindolin-2-ylmethanone | NC1=NC2=CC=C(C=C2C(=N1)C(=O)N1CC2=CC=CC=C2C1)C1=C(C=C(C(=C1)OC)OC)CO | C26H24N4O4
